US08871788B2
(4-Methoxy-phenyl)-[6-((2S,3′S)-2-methyl-[1,3′]bipyrrolidinyl-1′-yl)-3,4-dihydro-1H-isoquinolin-2-yl]-methanone
To a solution of 6-((2S,3′S)-2-Methyl-[1,3′]bipyrrolidinyl-1′-yl)-1,2,3,4-tetrahydro-isoquinoline in DCM (7 mL) was added 4-Methoxy-benzoyl chloride in DCM, followed by triethylamine. The reaction was quenched with aq. NaHCO3 and DCM work up. The crude product was purified on a silica gel column to obtain the title compound.

reactant | 6-((2S,3′S)-2-Methyl-[1,3′]bipyrrolidinyl-1′-yl)-1,2,3,4-tetrahydro-isoquinoline | C[C@@H]1N(CCC1)[C@@H]1CN(CC1)C=1C=C2CCNCC2=CC1 | C18H27N3
reactant | 4-Methoxy-benzoyl chloride | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | DCM | 7 mL | C(Cl)Cl | CH2Cl2
product | (4-Methoxy-phenyl)-[6-((2S,3′S)-2-methyl-[1,3′]bipyrrolidinyl-1′-yl)-3,4-dihydro-1H-isoquinolin-2-yl]-methanone | COC1=CC=C(C=C1)C(=O)N1CC2=CC=C(C=C2CC1)N1C[C@H](CC1)N1[C@H](CCC1)C | C26H33N3O2
